US03992408
A stirred suspension of 8-chloro-6-(o-chlorophenyl)-1-[(dimethylamino)methyl]-4H-imidazo[1,2-a][1,4]benzodiazepine (3.95 g, 10 mmole) and potassium bicarbonate (17 g, 17 mmole) in 280 ml. of chloroform is treated with phenyl chloroformate (12.97 g, 87 mmole) and refluxed for 50 hours. The resulting mixture is cooled, washed with water (100 ml) and the solvent is removed in vacuo. The residue is dissolved in 170 ml. of methanol and the resulting solutionis treated with 100 ml. of 5.6 g of potassium hydroxide and 10 g of potassium bicarbonate. This mixture is stirred under nitrogen for 24 hours, acidified with concentrated hydrochloric acid, diluted with water, and extracted with 500 ml. of ether. The ether phase is dried over anhydrous sodium sulfate, and the ether is removed in vacuo. The thus obtained material is dissolved in a mixture of 800 ml. of ethanol and aqueous 50% potassium hydroxide (200 ml) and refluxed under nitrogen for 24 hours. This solution is treated with 200 ml. of concentrated hydrochloric acid and the ethanol is removed in vacuo. The remaining aqueous phase is extracted with ether, and the ether is discarded. The aqueous phase is then made basic, pH 9.0 and re-extracted with methylene chloride (800 ml). The methylene chloride is dried over anhydrous sodium sulfate and the solvent is removed in vacuo. The resulting oil is crystallized to give 8-chloro-6-(o-chlorophenyl)-1-[(methylamino)methyl]-4H-imidazo[1,2-a][1,4]benzodiazepine.

reactant | 8-chloro-6-(o-chlorophenyl)-1-[(dimethylamino)methyl]-4H-imidazo[1,2-a][1,4]benzodiazepine | 10 mmole, 3.95 g | ClC=1C=CC2=C(C(=NCC=3N2C(=CN3)CN(C)C)C3=C(C=CC=C3)Cl)C1 | C20H18Cl2N4
reactant | potassium bicarbonate | 17 mmole, 17 g | C([O-])(O)=O.[K+]
reactant | phenyl chloroformate | 87 mmole, 12.97 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 8-chloro-6-(o-chlorophenyl)-1-[(methylamino)methyl]-4H-imidazo[1,2-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=CN3)CNC)C3=C(C=CC=C3)Cl)C1 | C19H16Cl2N4
